US05541163
By following the procedure of section (a) of this example but replacing (S)-1-phenylethylamine with twice the equivalent amount of (cyclohexylmethyl)amine and replacing 2-bromo-N,N-dimethylacetamide with an equivalent amount of 4-(2-bromo-1-oxoethyl)morpholine, 4-{2-[(cyclohexylmethyl)amino]-1-oxoethyl}morpholine [1H NMR(CDCl3) δ3.76-3.54 (m,3H), 3.43-3.33 (m,4H), 2.45 (d, J=6.6 Hz,2H), 2.41 (broad s,1H), 1.84-0.84 (m,11H)] was obtained.

reactant | (S)-1-phenylethylamine | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | (cyclohexylmethyl)amine | C1(CCCCC1)CN | C7H15N
reactant | 2-bromo-N,N-dimethylacetamide | BrCC(=O)N(C)C | C4H8BrNO
reactant | 4-(2-bromo-1-oxoethyl)morpholine | BrCC(=O)N1CCOCC1 | C6H10BrNO2
product | 4-{2-[(cyclohexylmethyl)amino]-1-oxoethyl}morpholine | C1(CCCCC1)CNCC(=O)N1CCOCC1 | C13H24N2O2
